US07851473B2
To a solution of 2-(5-chloro-1,2,4-thiadiazol-3-yl)pyridine (3.96 g, 20.0 mmol) and 1-tert-butoxycarbonyl-piperazine (3.73 g, 20.0 mmol) in dimethylformamide (40 ml) was added triethylamine (11.2 ml, 80.0 mmol), and the mixture was stirred at room temperature for 1 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 6.35 g (91.2%) of tert-butyl 4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate as a solid.

reactant | 2-(5-chloro-1,2,4-thiadiazol-3-yl)pyridine | 20.0 mmol, 3.96 g | ClC1=NC(=NS1)C1=NC=CC=C1 | C7H4ClN3S
reactant | 1-tert-butoxycarbonyl-piperazine | 20.0 mmol, 3.73 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 80.0 mmol, 11.2 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(3-pyridin-2-yl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxylate | 6.35 g, 91.2% | N1=C(C=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N5O2S
